US05364871
A mixture of formic acid (0.47 ml) and acetic anhydride (0.87.ml]was stirred at 40°-50° C. for 30 minutes. To a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (3.0 g) and triethylamine (3.5 ml) in N,N-dimethylformamide (45 ml) was added the above mixture under ice-cooling and the mixture was stirred at ambient temperature for 5 hours. The reaction mixture was added to water and the mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract layer was washed with brine, and dried over magnesium sulfate. Evaporation of a solvent gave a residue, which was Purified by column chromatography on alumina, eluting with a mixture of chloroform and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was recrystallized from an aqueous methanol to give 2-(diaminomethyleneamino)-4-(6-formylaminomethylpyridin-2-yl)thiazole (0.62 g).

reactant | formic acid | 0.47 ml | C(=O)O | CH2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 3.0 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(diaminomethyleneamino)-4-(6-formylaminomethylpyridin-2-yl)thiazole | 0.62 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC=O | C11H12N6OS
